US05789437
10 g (0.034 mol) of 4,5-dibromo-thiophene-2-carbonyl chloride in 100 ml of toluene are treated dropwise at room temperature with 5.0 g (0.068 mol) of tert-butyl-amine in 20 ml of toluene. The reaction mixture is then stirred at 50° C. for one hour, cooled to room temperature and treated with water. The organic phase is separated off, rewashed with water and concentrated under reduced pressure. After treating the residue with hexane, the crystalline residue which is deposited is filtered off and dried at 50° C. under reduced pressure. 4.8 g (41.4% of theory) of 4,5-dibromo-thiophene-2-carboxylic acid t-butyl-amide of melting point 190° C. are obtained.

reactant | 4,5-dibromo-thiophene-2-carbonyl chloride | 0.034 mol, 10 g | BrC=1C=C(SC1Br)C(=O)Cl | C5HBr2ClOS
reactant | tert-butyl-amine | 0.068 mol, 5.0 g | C(C)(C)(C)N | C4H11N
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-dibromo-thiophene-2-carboxylic acid t-butyl-amide | 4.8 g, 41.4% | C(C)(C)(C)NC(=O)C=1SC(=C(C1)Br)Br | C9H11Br2NOS
